US07645771B2
To a solution of methyl 3-amino-2,2-dimethylpropanoate (249 mg, 1.90 mmol) and Et3N (0.80 mL, 5.70 mmol) in 2 mL CH2Cl2 was added methanesulfonyl chloride (0.29 mL, 3.80 mmol). The reaction was stirred for 2 days, quenched by the addition of saturated aqueous NaHCO3, extracted with CHCl3, and chromatographed (1:1 hex:EtOAc) to provide methyl 2,2-dimethyl-3-[(methylsulfonyl)amino]propanoate (124 mg, 31%) as a clear oil. 1H NMR (400 MHz, CDCl3), 4.95 (t, 1H, J=6.8 Hz), 3.69 (s, 3H), 3.16 (d, 2H, J=6.8 Hz), 2.95 (s, 3H), 1.24 (s, 6H). Methyl 2,2-dimethyl-3-[(methylsulfonyl)amino]propanoate was hydrolyzed using aqueous NaOH to provide 2,2-dimethyl-3-[(methylsulfonyl)amino]propanoic acid, which was used without further purification. 1H NMR (400 MHz, CDCl3), δ 10.28 (br. s, 1H), 5.56 (br. s, 1H), 3.14 (s, 2H), 2.94 (s, 3H), 1.25 (5, 6H).

reactant | methyl 3-amino-2,2-dimethylpropanoate | 1.90 mmol, 249 mg | NCC(C(=O)OC)(C)C | C6H13NO2
reactant | Et3N | 5.70 mmol, 0.80 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.80 mmol, 0.29 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 2,2-dimethyl-3-[(methylsulfonyl)amino]propanoate | 124 mg, 31% | CC(C(=O)OC)(CNS(=O)(=O)C)C | C7H15NO4S
